US04387105
Other of the ureas and thioureas of this invention are prepared by reacting arylamines with activated derivatives of carbonic acid such as phosgene or thiophosgene to yield an intermediate, for instance, an arylcarbamyl chloride. This intermediate is then reacted with a secondary amine to yield the urea or thiourea. The preparation of this intermediate is conducted in an aprotic solvent such as toluene or xylene at temperatures from about room temperature up to the boiling point of the solvent in the presence of a base, for example, N,N-dimethylaniline. The intermediate is then reacted with a secondary amine in an aprotic solvent such as toluene at temperatures from room temperature or below up to the boiling point of the solvent. An example of this process is the reaction of phosgene with 3-chloroaniline to yield the intermediate N-(3-chlorophenyl)carbamyl chloride which is then reacted with di-(n-butyl)amine to yield 1,1-di-(n-butyl)-3-(3-chlorophenyl)urea.

reactant | N,N-dimethylaniline | CN(C1=CC=CC=C1)C | C8H11N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 3-chloroaniline | ClC=1C=C(N)C=CC1 | C6H6ClN
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | N-(3-chlorophenyl)carbamyl chloride | ClC=1C=C(C=CC1)NC(=O)Cl | C7H5Cl2NO
